US04921851
In 50 ml of water is suspended 4.60 g of 7β-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid and, with ice-cooling and stirring, 20 ml of 1N aqueous sodium hydroxide solution is added to the suspension for dissolving the acid. To the solution is added 1.85 g of sodium hydrogen carbonate and, then, a solution of 4.11 g of 2-methylsulfonylethoxycarbonyl chloride in 40 ml of tetrahydrofuran is added dropwise. The mixtrue is stirred with ice-cooling for 2 hours, then adjusted to pH 6.5, washed with ethyl acetate, and concentrated under reduced pressure. The residue is subjected to column chromatography on XAD-II (600 ml). Elution is performed with water and the eluate is concentrated under reduced pressure and freeze-dried to give 3.10 g of sodium 7β-(2-methylsulfonylethoxycarbonylamino)-3-hydroxymethyl-3-cephem-4-carboxylate as light yellow powders.

reactant | 7β-amino-3-hydroxymethyl-3-cephem-4-carboxylic acid | 4.60 g | N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O | C8H10N2O4S
reactant | sodium hydroxide | 1N, 20 ml | [OH-].[Na+]
reactant | sodium hydrogen carbonate | 1.85 g | C(O)([O-])=O.[Na+]
reactant | 2-methylsulfonylethoxycarbonyl chloride | 4.11 g | CS(=O)(=O)CCOC(=O)Cl | C4H7ClO4S
solvent | water | 50 ml | O | H2O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | sodium 7β-(2-methylsulfonylethoxycarbonylamino)-3-hydroxymethyl-3-cephem-4-carboxylate | 3.10 g | CS(=O)(=O)CCOC(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)[O-])C1=O.[Na+] | InChI=1S/C12H16N2O8S2.Na/c1-24(20,21)3-2-22-12(19)13-7-9(16)14-8(11(17)18)6(4-15)5-23-10(7)14;/h7,10,15H,2-5H2,1H3,(H,13,19)(H,17,18);/q;+1/p-1/t7-,10-;/m1./s1
